US07595397B2
2-Bromo-N-((S)-2-hydroxy-2-phenyl-ethyl)-acetamide
To a cold (0° C.) biphasic solution of (S)-(+)-2-amino-1-phenylethanol (6.2 g, 45.2 mmol) in EtOAc (450 mL) and saturated aqueous NaHCO3 (125 mL) was added bromoacetyl bromide (4.32 mL, 49.7 mmol) via syringe. The mixture was stirred at 0° C. for 1 h then layers were separated. The aqueous layer was extracted with EtOAc (2×100 mL) then combined organics were dried with Na2SO4, filtered, and concentrated to dryness to afford the desired product as a residue (11.6 g, quant.) that was used in the next transformation: ES MS (+) m/z 258.

reactant | (S)-(+)-2-amino-1-phenylethanol | 45.2 mmol, 6.2 g | NC[C@@H](O)C1=CC=CC=C1 | C8H11NO
reactant | bromoacetyl bromide | 49.7 mmol, 4.32 mL | BrCC(=O)Br | C2H2Br2O
solvent | EtOAc | 450 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 125 mL | C(=O)(O)[O-].[Na+]
product | 2-Bromo-N-((S)-2-hydroxy-2-phenyl-ethyl)-acetamide | BrCC(=O)NC[C@H](C1=CC=CC=C1)O | C10H12BrNO2
